* D:\Github Repositories\power-electronics-2025\Module 3 DC_DC Converters\simulations\Buck-12V.asc
* Generated by LTspice 24.1.9 for Windows.
D2 0 N007 D800V6A
D3 N008 N002 D800V6A
D4 N007 N002 D800V6A
D5 0 N008 D800V6A
V3 N006 0 SINE(0 169.7 60) Rser=.1
Lp N006 0 100
Ls N008 N007 1
R§NTC_1 NC_01 NC_02 {R0*exp(B*(1/Tk - 1/T0))}
R2 N003 0 10k
RL N005 0 5.56
V4 N009 N004 PULSE(0 5 0 60n 40n 4.85u 5u)
M1 N003 N009 N004 N004 IRFZ44N
R4 N003 N002 0.1
C2 N003 0 19000µ V=16 Irms=1.39 Rser=0.044 Lser=0
C3 0 N005 220µ
L3 N004 N005 135µ
D1 0 N004 MBRS340
R1 N005 N001 38k
R3 N001 0 10k
R5 N005 N010 1k
X§U1 N001 0 N010 TL431
.model D D
.lib C:\Users\WILMER JIMENEZ\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\WILMER JIMENEZ\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100ms
* RECTIFICADOR MONOFASICO + Circuito BUCKET
.model D800V6A D(Is=1n Rs=0.02 N=1.75 Cjo=200p M=0.333 Vj=0.75 bv=800 ibv=0.1u Tt=2u)
K1 Lp Ls 1
.meas TRAN Vout_peak MAX V(n003)
.meas TRAN Vout_RMS RMS V(n003)
.meas TRAN Vload_peak MAX V(n005)
.meas TRAN Vload_RMS RMS  V(n005)
.meas TRAN Pload AVG V(n005)*I(RL)
.meas Vdc AVG V(n005)
.meas VrippleRMS PARAM Vload_peak/(240*sqrt(3)*5*19000u)
.meas RippleFactor PARAM 100*(VrippleRMS/Vdc)
.param R0=5
.param T0=298.15
.param B=3500
.param Tk=temp+273.15
.lib C:\Users\WILMER JIMENEZ\Documents\LTspice\TL431\tl431.mod
.backanno
.end
